* ELDO netlist generated with ICnet by 'vlsi' on Sun Nov  5 2017 at 21:02:00
.subckt hamming_lay vdd gnd in1 in2 clk s0 s1
.CONNECT GND 0

*
* MAIN CELL: Component pathname : /home/vlsi/g4/dhall_sipo
*
        MP48 S1 N$427 VDD VDD p L=0.18u W=1.26u
        MP41 N$419 N$446 VDD VDD p L=0.18u W=1.26u
        MP40 N$419 N$416 VDD VDD p L=0.18u W=1.26u
        MN41 N$421 N$416 GND GND n L=0.18u W=0.36u
        MN40 N$419 N$446 N$421 GND n L=0.18u W=0.36u
        MN48 S1 N$427 GND GND n L=0.18u W=0.36u
        MN49 N$373 CLK GND GND n L=0.18u W=0.36u
        MP49 N$373 CLK VDD VDD p L=0.18u W=1.26u
        MP10 N$444 N$330 VDD VDD p L=0.18u W=1.26u
        MP29 N$391 N$446 VDD VDD p L=0.18u W=1.26u
        MN29 N$391 N$446 GND GND n L=0.18u W=0.36u
        MP28 N$391 CLK N$388 VDD p L=0.18u W=1.26u
        MN28 N$391 N$373 N$388 GND n L=0.18u W=0.36u
        MP27 N$384 N$373 N$388 VDD p L=0.18u W=1.26u
        MN27 N$384 CLK N$388 GND n L=0.18u W=0.36u
        MP17 N$355 N$373 N$359 VDD p L=0.18u W=1.26u
        MP26 N$384 N$379 VDD VDD p L=0.18u W=1.26u
        MN26 N$384 N$379 GND GND n L=0.18u W=0.36u
        MN16 N$355 N$350 GND GND n L=0.18u W=0.36u
        MN8 N$333 N$373 N$330 GND n L=0.18u W=0.36u
        MP7 N$326 N$373 N$330 VDD p L=0.18u W=1.26u
        MP14 N$348 N$350 VDD VDD p L=0.18u W=1.26u
        MN14 N$348 N$350 GND GND n L=0.18u W=0.36u
        MP13 N$348 N$373 N$345 VDD p L=0.18u W=1.26u
        MN13 N$348 CLK N$345 GND n L=0.18u W=0.36u
        MP12 N$340 CLK N$345 VDD p L=0.18u W=1.26u
        MN12 N$340 N$373 N$345 GND n L=0.18u W=0.36u
        MP16 N$355 N$350 VDD VDD p L=0.18u W=1.26u
        MP19 N$362 N$364 VDD VDD p L=0.18u W=1.26u
        MN9 N$333 N$444 GND GND n L=0.18u W=0.36u
        MP5 N$321 N$316 VDD VDD p L=0.18u W=1.26u
        MN5 N$321 N$316 GND GND n L=0.18u W=0.36u
        MN10 N$444 N$330 GND GND n L=0.18u W=0.36u
        MP18 N$362 CLK N$359 VDD p L=0.18u W=1.26u
        MP4 N$319 N$321 VDD VDD p L=0.18u W=1.26u
        MN4 N$319 N$321 GND GND n L=0.18u W=0.36u
        MN24 N$377 N$379 GND GND n L=0.18u W=0.36u
        MP21 N$369 N$364 VDD VDD p L=0.18u W=1.26u
        MN21 N$369 N$364 GND GND n L=0.18u W=0.36u
        MP22 N$369 CLK N$374 VDD p L=0.18u W=1.26u
        MN22 N$369 N$373 N$374 GND n L=0.18u W=0.36u
        MP1 N$311 OUT VDD VDD p L=0.18u W=1.26u
        MP23 N$377 N$373 N$374 VDD p L=0.18u W=1.26u
        MP20 N$364 N$359 VDD VDD p L=0.18u W=1.26u
        MN47 N$427 N$423 GND GND n L=0.18u W=0.36u
        MN46 N$427 N$415 GND GND n L=0.18u W=0.36u
        MP47 N$428 N$415 VDD VDD p L=0.18u W=1.26u
        MP46 N$427 N$423 N$428 VDD p L=0.18u W=1.26u
        MN34 N$410 N$444 N$412 GND n L=0.18u W=0.36u
        MN45 S0 N$425 N$416 GND n L=0.18u W=0.36u
        MP45 S0 N$446 N$416 VDD p L=0.18u W=1.26u
        MN44 N$425 N$446 GND GND n L=0.18u W=0.36u
        MP44 N$425 N$446 VDD VDD p L=0.18u W=1.26u
        MN43 S0 N$416 N$425 GND n L=0.18u W=0.36u
        MP43 S0 N$416 N$446 VDD p L=0.18u W=1.26u
        MP42 N$423 N$419 VDD VDD p L=0.18u W=1.26u
        MN42 N$423 N$419 GND GND n L=0.18u W=0.36u
        MN33 OUT N$450 IN2 GND n L=0.18u W=0.36u
        MP33 OUT IN1 IN2 VDD p L=0.18u W=1.26u
        MN32 N$450 IN1 GND GND n L=0.18u W=0.36u
        MP32 N$450 IN1 VDD VDD p L=0.18u W=1.26u
        MN31 OUT IN2 N$450 GND n L=0.18u W=0.36u
        MP31 OUT IN2 IN1 VDD p L=0.18u W=1.26u
        MP11 N$340 N$444 VDD VDD p L=0.18u W=1.26u
        MN11 N$340 N$444 GND GND n L=0.18u W=0.36u
        MN15 N$350 N$345 GND GND n L=0.18u W=0.36u
        MP15 N$350 N$345 VDD VDD p L=0.18u W=1.26u
        MN23 N$377 CLK N$374 GND n L=0.18u W=0.36u
        MP24 N$377 N$379 VDD VDD p L=0.18u W=1.26u
        MP25 N$379 N$374 VDD VDD p L=0.18u W=1.26u
        MN18 N$362 N$373 N$359 GND n L=0.18u W=0.36u
        MN37 N$416 N$364 N$454 GND n L=0.18u W=0.36u
        MN1 N$311 OUT GND GND n L=0.18u W=0.36u
        MP8 N$333 CLK N$330 VDD p L=0.18u W=1.26u
        MN7 N$326 CLK N$330 GND n L=0.18u W=0.36u
        MN19 N$362 N$364 GND GND n L=0.18u W=0.36u
        MP9 N$333 N$444 VDD VDD p L=0.18u W=1.26u
        MP6 N$326 N$321 VDD VDD p L=0.18u W=1.26u
        MN6 N$326 N$321 GND GND n L=0.18u W=0.36u
        MN25 N$379 N$374 GND GND n L=0.18u W=0.36u
        MN20 N$364 N$359 GND GND n L=0.18u W=0.36u
        MP3 N$319 N$373 N$316 VDD p L=0.18u W=1.26u
        MN3 N$319 CLK N$316 GND n L=0.18u W=0.36u
        MP2 N$311 CLK N$316 VDD p L=0.18u W=1.26u
        MN2 N$311 N$373 N$316 GND n L=0.18u W=0.36u
        MN39 N$416 N$454 N$364 GND n L=0.18u W=0.36u
        MP39 N$416 N$444 N$364 VDD p L=0.18u W=1.26u
        MN38 N$454 N$444 GND GND n L=0.18u W=0.36u
        MP38 N$454 N$444 VDD VDD p L=0.18u W=1.26u
        MN17 N$355 CLK N$359 GND n L=0.18u W=0.36u
        MP30 N$446 N$388 VDD VDD p L=0.18u W=1.26u
        MN30 N$446 N$388 GND GND n L=0.18u W=0.36u
        MP37 N$416 N$364 N$444 VDD p L=0.18u W=1.26u
        MP36 N$415 N$410 VDD VDD p L=0.18u W=1.26u
        MN36 N$415 N$410 GND GND n L=0.18u W=0.36u
        MP35 N$410 N$364 VDD VDD p L=0.18u W=1.26u
        MP34 N$410 N$444 VDD VDD p L=0.18u W=1.26u
        MN35 N$412 N$364 GND GND n L=0.18u W=0.36u
*
.ends

