* ELDO netlist generated with ICnet by 'vlsi' on Tue Sep 12 2017 at 01:20:11

.CONNECT GND 0
.subckt ref_inv In Vdd gnd Out

*
* Globals.
*
.global GND VDD

*
* MAIN CELL: Component pathname : /home/vlsi/exp4_ref_inv/ref_inv
*
        MN1 OUT IN GND GND n L=1.8e-07 W=3.6e-07
        MP1 OUT IN VDD VDD p L=1.8e-07 W=1.26e-06
*
.ends

