* File: ref_inv_pex.sp.pex
* Created: Tue Sep 12 01:58:05 2017
* Program "Calibre xRC"
* Version "v2013.4_37.29"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_REF_INV_IN 3 7 11
c0 15 GND 0.0098115f
c1 14 GND 0.02408f
c2 7 GND 0.0218423f
c3 3 GND 0.0233903f
r4 14 19 6.80224
r5 14 18 6.80224
r6 13 15 0.0451795
r7 13 14 9.6
r8 11 15 0.142
r9 7 19 29.645
r10 3 18 36.96
.ends

.subckt PM_REF_INV_GND 1 12 21
c0 16 GND 0.00618264f
c1 14 GND 0.00496f
c2 12 GND 0.173422f
r3 15 21 5.78981
r4 14 16 0.0451995
r5 14 15 10.4
r6 8 12 0.0027027
r7 3 12 0.069024
r8 3 16 0.177333
r9 1 8 10.8
.ends

.subckt PM_REF_INV_VDD 1 6 17
c0 13 GND 0.00496f
c1 10 GND 0.0970316f
c2 6 GND 0.00608964f
c3 4 GND 0.0763902f
r4 14 17 4.5
r5 13 16 0.0451795
r6 13 14 10.8
r7 6 16 0.164
r8 4 10 0.0486565
r9 4 6 0.0106667
r10 1 10 10.4
.ends

.subckt PM_REF_INV_OUT 7 19 22
c0 18 GND 0.00279f
c1 14 GND 0.00496f
c2 11 GND 0.00650814f
c3 9 GND 0.00496f
c4 5 GND 0.0113916f
c5 2 GND 0.00678714f
r6 15 22 5.78981
r7 14 17 0.0451595
r8 14 15 10.4
r9 10 19 4.5
r10 9 11 0.0451795
r11 9 10 10.8
r12 5 18 0.00880368
r13 5 7 0.154
r14 3 18 0.0338756
r15 3 11 0.186667
r16 2 18 0.0338756
r17 2 17 0.194667
.ends

